US06716843B2
(4R)-4-Cyano-3-[N5-{(imino)(methylsulphonylamino)-methyl}-(S)-ornithyl]-1,3-thiazolidine Hydrochloride
Starting from (S)-N2-(benzyloxycarbonyl)-arginine, methanesulphonyl chloride and (R)-4-cyano-1,3-thiazolidine, the expected product is obtained according to the procedure described in Example 1.

reactant | (S)-N2-(benzyloxycarbonyl)-arginine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C14H20N4O4
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | (R)-4-cyano-1,3-thiazolidine | C(#N)[C@H]1NCSC1 | C4H6N2S
product | (4R)-4-Cyano-3-[N5-{(imino)(methylsulphonylamino)-methyl}-(S)-ornithyl]-1,3-thiazolidine Hydrochloride | Cl.C(#N)[C@H]1N(CSC1)C([C@@H](N)CCCNC(NS(=O)(=O)C)=N)=O | InChI=1S/C11H20N6O3S2.ClH/c1-22(19,20)16-11(14)15-4-2-3-9(13)10(18)17-7-21-6-8(17)5-12;/h8-9H,2-4,6-7,13H2,1H3,(H3,14,15,16);1H/t8-,9+;/m1./s1
